US08202857B2
A stirred mixture of Jones reagent (0.25 mL) and acetone (2 mL) was cooled in an ice bath and a solution of (S)-1-((S)-1-(4-bromophenyl)ethyl)-4-(3-hydroxypropyl)-4-phenyl-1,3-diazepan-2-one (45 mg, 0.11 mmol) in acetone (6 mL) was added dropwise over 10 min The mixture was stirred in the ice bath for 2 h and i-PrOH (2 mL) was added. The mixture was concentrated under reduced pressure. The residue was taken up in EtOAc (100 mL), washed with water (15 mL) and brine (15 mL), and dried over Na2SO4. Removal of the solvent afforded crude 3-((S)-1-((S)-1-(4-bromophenyl)ethyl)-2-oxo-4-phenyl-1,3-diazepan-4-yl)propanoic acid (33 mg, 69%) which was used without further purification.

reactant | Jones reagent | 0.25 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | (S)-1-((S)-1-(4-bromophenyl)ethyl)-4-(3-hydroxypropyl)-4-phenyl-1,3-diazepan-2-one | 0.11 mmol, 45 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(N[C@](CCC1)(C1=CC=CC=C1)CCCO)=O | C22H27BrN2O2
reactant | i-PrOH | 2 mL | CC(C)O | C3H8O
solvent | acetone | 6 mL | CC(=O)C | C3H6O
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 3-((S)-1-((S)-1-(4-bromophenyl)ethyl)-2-oxo-4-phenyl-1,3-diazepan-4-yl)propanoic acid | 33 mg, 69% | BrC1=CC=C(C=C1)[C@H](C)N1C(N[C@](CCC1)(C1=CC=CC=C1)CCC(=O)O)=O | C22H25BrN2O3
